US08975400B2
4-(2-cyano-4-formylphenoxy)-2-fluorobenzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 2-fluoro-5-formylbenzonitrile and 2-fluoro-4-hydroxybenzonitrile.

reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | 2-fluoro-4-hydroxybenzonitrile | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
product | 4-(2-cyano-4-formylphenoxy)-2-fluorobenzonitrile | C(#N)C1=C(OC2=CC(=C(C#N)C=C2)F)C=CC(=C1)C=O | C15H7FN2O2
